US09278910B2
Prepared from INT-57. To a stirring suspension of tert-butyl 2-(N-(4-(N-hydroxycarbamimidoyl)benzyl)-4-nitrobenzamido)acetate INT-57 (820 mg, 1.91 mmol) in dioxane (10 mL) was added 2,2,2-trichloroacetic anhydride (420 μL, 2.30 mmol) and heated to 120° C. for 2 h. To this mixture was added 7 M ammonia in MeOH (10 mL) and stirred at room temperature for 18 h. The reaction mixture was pre-absorbed onto silica gel and purified by chromatography (EA/hexanes) to afford 342 mg (39%) of tert-butyl 2-(N-(4-(5-amino-1,2,4-oxadiazol-3-yl)benzyl)-4-nitrobenzamido)acetate) INT-67 as a white solid. LCMS-ESI (m/z) calculated for C22H23N5O6: 453; found 454 [M+H]+, tR=2.30 min (Method 10).

reactant | tert-butyl 2-(N-(4-(N-hydroxycarbamimidoyl)benzyl)-4-nitrobenzamido)acetate | ONC(=N)C1=CC=C(CN(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CC(=O)OC(C)(C)C)C=C1 | C21H24N4O6
reactant | 2,2,2-trichloroacetic anhydride | 2.30 mmol, 420 μL | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | ammonia | 7 M | N | H3N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl 2-(N-(4-(5-amino-1,2,4-oxadiazol-3-yl)benzyl)-4-nitrobenzamido)acetate | 342 mg, 39% | NC1=NC(=NO1)C1=CC=C(CN(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CC(=O)OC(C)(C)C)C=C1 | C22H23N5O6
